.INCLUDE  /home/PDK/ss28nm/SEC_CDS/ln28lppdk/S00-V1.1.0.1_SEC2.0.6.2/oa/cmos28lp/.resources/devices.cdl
.SUBCKT ResistorBankCell S SB VCM VDD VRX VSS
RR20 VRX net13 $SUB=VSS $[opppcres] r=0.725156k w=1.702u l=2.7u pbar=1 s=1 bp=3 ncr=2
MN20 net13 S VCM VSS slvtnfet w=0.516u l=0.038u nf=2.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP20 net13 SB VCM VDD slvtpfet w=1.032u l=0.038u nf=2.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
.ENDS
.SUBCKT ResistorBank S<0> SB<0> S<1> SB<1> S<2> SB<2> S<3> SB<3> S<4> SB<4> S<5> SB<5> S<6> SB<6> S<7> SB<7> S<8> SB<8> S<9> SB<9> S<10> SB<10> S<11> SB<11> S<12> SB<12> S<13> SB<13> S<14> SB<14> S<15> SB<15> S<16> SB<16> S<17> SB<17> S<18> SB<18> S<19> SB<19> S<20> SB<20> S<21> SB<21> S<22> SB<22> S<23> SB<23> S<24> SB<24> S<25> SB<25> S<26> SB<26> S<27> SB<27> VCM VDD VRX VSS
XIR0 S<0> SB<0> VCM VDD VRX VSS / ResistorBankCell
XIR1 S<1> SB<1> VCM VDD VRX VSS / ResistorBankCell
XIR2 S<2> SB<2> VCM VDD VRX VSS / ResistorBankCell
XIR3 S<3> SB<3> VCM VDD VRX VSS / ResistorBankCell
XIR4 S<4> SB<4> VCM VDD VRX VSS / ResistorBankCell
XIR5 S<5> SB<5> VCM VDD VRX VSS / ResistorBankCell
XIR6 S<6> SB<6> VCM VDD VRX VSS / ResistorBankCell
XIR7 S<7> SB<7> VCM VDD VRX VSS / ResistorBankCell
XIR8 S<8> SB<8> VCM VDD VRX VSS / ResistorBankCell
XIR9 S<9> SB<9> VCM VDD VRX VSS / ResistorBankCell
XIR10 S<10> SB<10> VCM VDD VRX VSS / ResistorBankCell
XIR11 S<11> SB<11> VCM VDD VRX VSS / ResistorBankCell
XIR12 S<12> SB<12> VCM VDD VRX VSS / ResistorBankCell
XIR13 S<13> SB<13> VCM VDD VRX VSS / ResistorBankCell
XIR14 S<14> SB<14> VCM VDD VRX VSS / ResistorBankCell
XIR15 S<15> SB<15> VCM VDD VRX VSS / ResistorBankCell
XIR16 S<16> SB<16> VCM VDD VRX VSS / ResistorBankCell
XIR17 S<17> SB<17> VCM VDD VRX VSS / ResistorBankCell
XIR18 S<18> SB<18> VCM VDD VRX VSS / ResistorBankCell
XIR19 S<19> SB<19> VCM VDD VRX VSS / ResistorBankCell
XIR20 S<20> SB<20> VCM VDD VRX VSS / ResistorBankCell
XIR21 S<21> SB<21> VCM VDD VRX VSS / ResistorBankCell
XIR22 S<22> SB<22> VCM VDD VRX VSS / ResistorBankCell
XIR23 S<23> SB<23> VCM VDD VRX VSS / ResistorBankCell
XIR24 S<24> SB<24> VCM VDD VRX VSS / ResistorBankCell
XIR25 S<25> SB<25> VCM VDD VRX VSS / ResistorBankCell
XIR26 S<26> SB<26> VCM VDD VRX VSS / ResistorBankCell
XIR27 S<27> SB<27> VCM VDD VRX VSS / ResistorBankCell
.ENDS
